US07091346B1
168 mg (0.5 mmol) of 2-chloro-6-(3,4,5-trimethoxy-phenyl-amino)-purine, 103 mg (0.75 mmol) of potassium carbonate and 0.156 ml (2.5 mmol) of methyl iodide are stirred in 3 ml of dimethylformamide at room temperature for 5 h. 30 ml of ethyl acetate are added to the slightly cloudy reaction solution and the mixture is extracted with water. The organic phase is dried over sodium sulfate. After removal of the solvent, the residue is recrystallized from ethyl acetate and diethyl ether. 2-Chloro-6-(3,4,5-trimethoxy-phenyl-amino)-9-methyl-9H-purine is obtained; FAB-MS: (M+H)+=350; Rf=0.6 (CH2Cl2:methanol=9:1).

reactant | 2-chloro-6-(3,4,5-trimethoxy-phenyl-amino)-purine | 0.5 mmol, 168 mg | ClC1=NC(=C2NC=NC2=N1)NC1=CC(=C(C(=C1)OC)OC)OC | C14H14ClN5O3
reactant | potassium carbonate | 0.75 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.5 mmol, 0.156 ml | CI | CH3I
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-6-(3,4,5-trimethoxy-phenyl-amino)-9-methyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC(=C(C(=C1)OC)OC)OC | C15H16ClN5O3
